US07863305B2
To a solution of indole (2.88 g, 25 mmol) and methyl trans-cinnamate (3.98 g, 25 mmol) in anhydrous DMF (50 mL) was added a suspension of 60% NaH (0.29 g, 7 mmol) at room temperature. The reaction mixture was allowed to stir for 6 hours at room temperature. The reaction mixture was poured into water (300 mL) and product was extracted with EtOAc (2×200 mL). The combined organic extracts were washed with water (5×200 ml), dried over Na2SO4 and evaporated under vacuum. Purification by chromatography (SiO2, benzene-hexane, 1:9) afforded 1.51 g (22% yield) of 3-indol-1-yl-3-phenyl-propionic acid methyl ester as a white powder: MS 280 (M+H)+.

reactant | indole | 25 mmol, 2.88 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | methyl trans-cinnamate | 25 mmol, 3.98 g | C(\C=C\C1=CC=CC=C1)(=O)OC | C10H10O2
reactant | NaH | 7 mmol, 0.29 g | [H-].[Na+]
reactant | water | 300 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-indol-1-yl-3-phenyl-propionic acid methyl ester | 1.51 g, 22% yield | COC(CC(C1=CC=CC=C1)N1C=CC2=CC=CC=C12)=O | C18H17NO2
